US07491743B2
Furthermore, 7-benzyloxyindole (404 mg, 1.81 mmol) was hydrogenated over 10% palladium on carbon (40 mg) in EtOH (4.2 mL) at ambient temperature under atmosphere pressure for 6 h. The catalyst was filtered off and washed with EtOH. The filtrate was concentrated to give 7-hydroxyindole as pale purple crystals, which was rapidly and directly used for the next reaction.

reactant | 7-benzyloxyindole | 1.81 mmol, 404 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | EtOH | 4.2 mL | CCO | C2H6O
product | 7-hydroxyindole | OC=1C=CC=C2C=CNC12 | C8H7NO
